US08685969B2
1. Methyl-4-cyano-1-(3-(8-fluoro-4-oxoquinazolin-3(4H)-yl)-2-methylphenyl)-5H-pyrido[4,3-b]indole-7-carboxylate
A stirred mixture of methyl 1-chloro-4-cyano-5H-pyrido[4,3-b]indole-7-carboxylate (0.285 g, 0.998 mmol), 8-fluoro-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazolin-4(3H)-one (0.379 g, 0.998 mmol), Tetrakis(triphenylphosphine)palladium(0) (0.058 g, 0.050 mmol) and Sodium carbonate[2M aqueous] (0.499 mL, 0.998 mmol) in Dioxane (2 mL) was heated at 110° C. for 16 hours overnight. LC-MS showed complete conversion to the desired product mass plus residual starting material[boronic ester] and a byproduct. The reaction mixture was concentrated. The residue was taken up in 10 ml DMF, stirred and filtered. The filtrate was concentrated; the residue triturated with methanol and filtered. The solid residue labeled 89040-079-04 was dried overnight. LC-MS showed the solid residue to be the desired product Methyl-4-cyano-1-(3-(8-fluoro-4-oxoquinazolin-3(4H)-yl)-2-methylphenyl)-5H-pyrido[4,3-b]indole-7-carboxylate as a tan solid [0.172 g, 0.342 mmol, 34% yield]. The product had an HPLC Retention Time=3.510 min [mixture of rotamers][4 min grad, 10% MeOH/water to 90% MeOH/water, 0.1% TFA, YMC COMBISCREEN® ODS-A, 4.6×50 mm, 220 nM]; LC/MS+1 504.3.

reactant | methyl 1-chloro-4-cyano-5H-pyrido[4,3-b]indole-7-carboxylate | 0.998 mmol, 0.285 g | ClC1=NC=C(C=2NC=3C=C(C=CC3C21)C(=O)OC)C#N | C14H8ClN3O2
reactant | 8-fluoro-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazolin-4(3H)-one | 0.998 mmol, 0.379 g | FC=1C=CC=C2C(N(C=NC12)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C21H22BFN2O3
reactant | Sodium carbonate | 0.998 mmol, 2M, 0.499 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.050 mmol, 0.058 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl-4-cyano-1-(3-(8-fluoro-4-oxoquinazolin-3(4H)-yl)-2-methylphenyl)-5H-pyrido[4,3-b]indole-7-carboxylate | 34% yield | COC(=O)C=1C=CC=2C3=C(NC2C1)C(=CN=C3C3=C(C(=CC=C3)N3C=NC1=C(C=CC=C1C3=O)F)C)C#N | C29H18FN5O3
